US06818767B2
A solution of 319 mg (0.92 mmol) of 4-chloro-7-methoxy-quinolin-2-ylamine in 20 ml of isopropanol was treated with 130 mg (1.83 mmol) of pyrrolidine and heated at 60° C. for 6 h. The reaction mixture was cooled to RT, concentrated in vacuo. The residue was applied to a silica gel column with hexane/AcOEt (1:1) as eluent. The purified fractions were combined and concentrated in vacuo upon which the desired product crystallized out. The crystals were filtered off and dried in a high vacuum to give 48 mg (21%) of 7-methoxy-4-pyrrolidin-1-yl-quinolin-2-ylamine hydrochloride as a light brown solid. EI mass spectrum, m/e: 243.2 (M calculated for C14H17N3O: 243).

reactant | 4-chloro-7-methoxy-quinolin-2-ylamine | 0.92 mmol, 319 mg | ClC1=CC(=NC2=CC(=CC=C12)OC)N | C10H9ClN2O
reactant | pyrrolidine | 1.83 mmol, 130 mg | N1CCCC1 | C4H9N
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 7-methoxy-4-pyrrolidin-1-yl-quinolin-2-ylamine hydrochloride | 48 mg, 21% | Cl.COC1=CC=C2C(=CC(=NC2=C1)N)N1CCCC1 | InChI=1S/C14H17N3O.ClH/c1-18-10-4-5-11-12(8-10)16-14(15)9-13(11)17-6-2-3-7-17;/h4-5,8-9H,2-3,6-7H2,1H3,(H2,15,16);1H
